US04988723
To a suspension of trans-3-acetoxy-4-(2-cyanoiminoimidazolidin-1-yl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.35 g) in toluene (7 ml) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.19 ml) and the mixture was stirred under reflux for 2.5 hours. The solvent was evaporated in vacuo and the residue was dissolved in a mixture of ethyl acetate and water. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was recrystallized from ethanol to give 4-(2-cyanoiminoimidazolidin-1-yl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.17 g).

reactant | trans-3-acetoxy-4-(2-cyanoiminoimidazolidin-1-yl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.35 g | C(C)(=O)O[C@@H]1C(OC2=C([C@H]1N1C(NCC1)=NC#N)C=C(C=C2)C#N)(C)C | C18H19N5O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.19 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-cyanoiminoimidazolidin-1-yl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.17 g | C(#N)N=C1N(CCN1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C16H15N5O
